US07932281B2
Synthesis of 5-chloromethyl-1-(tetrahydro-pyran-2-yl)-1H-tetrazole
5-Chloromethyl-1(2)H-tetrazole (52.8 mg) was dissolved in anhydrous dichloromethane (3.0 ml) and anhydrous DMF (0.50 ml) and added with 2,4-dihydro-2H-pyran (50.0 μl) at room temperature under a nitrogen atmosphere. The solution was added with pyridinium-p-toluenesulfonate (11.9 mg) under ice-cooling and warmed back to room temperature and the whole was stirred for 2 hours. Further, 2,4-dihydro-2H-pyran (75.0 μl) was added thereto and pyridinium-p-toluenesulfonate (22.0 mg) was added thereto under ice-cooling. The solution was warmed back to room temperature and stirred for 22 hours. After completion of the reaction, the reaction solution was poured into a saturated aqueous sodium hydrogen carbonate solution (10 ml) under ice-cooling to make the pH of the aqueous layer to 8. The aqueous layer was subjected to extraction with chloroform. The combined organic layer was washed with a saturated saline solution and dried with anhydrous sodium sulfate. After filtration, the solution was concentrated and evaporated to dryness under reduced pressure and the residue was purified through silica gel column chromatography (toluene/acetone), thereby obtaining the subject compound (4.6 mg) as a colorless oily substance.

reactant | 5-Chloromethyl-1(2)H-tetrazole | 52.8 mg | C(C1=NNN=N1)Cl | C2H3ClN4
reactant | DMF | 0.50 ml | CN(C)C=O | C3H7NO
reactant | pyridinium-p-toluenesulfonate | 11.9 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | pyridinium-p-toluenesulfonate | 22.0 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | sodium hydrogen carbonate | 10 ml | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 3.0 ml | ClCCl | CH2Cl2
product | 5-chloromethyl-1-(tetrahydro-pyran-2-yl)-1H-tetrazole | 4.6 mg | ClCC1=NN=NN1C1OCCCC1 | C7H11ClN4O
